US04539410
1-(7-Carboxyhept-6-enyl)-2-(1-imidazolyl)-3-methylindole (20 mg) is dissolved in 1 ml of absolute ethanol with a catalytic amount of 10% palladium on charcoal and hydrogenated at 1 atmosphere pressure. After one mole of hydrogen is consumed the catalyst is removed by filtration and washed with a few milliliters of ethanol. The combined filtrates are concentrated to yield the 1-(7-carboxyheptyl)-3-methyl-2-(1-imidazolyl)indole.

reactant | 1-(7-Carboxyhept-6-enyl)-2-(1-imidazolyl)-3-methylindole | 20 mg | C(=O)(O)C=CCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C20H23N3O2
reactant | hydrogen | one mole | [H][H] | H2
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 1-(7-carboxyheptyl)-3-methyl-2-(1-imidazolyl)indole | C(=O)(O)CCCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C20H25N3O2
